US04986846
Preparation of 2-chloro-4,6-dimethoxypyrimidine
1,260 ml of 36% hydrochloric acid were charged in a 5-l four-necked flask and then cooled to 0° C. After 180 g (1.16 moles) of 2-amino-4,6-dimethoxypyrimidine were added in small portions into the flask, the resulting mixture was stirred for about 1 hour until the reaction mixture changed into a syrupy form. After the reaction mixture was cooled to -15° C., 260 ml of 159 g (2.3 moles) of NaNO2 in H2O were added dropwise over about 1 hour under vigorous stirring. After completion of the dropwise addition, the resulting mixture was stirred at -15° to -10° C. for additional 1 hour so that the reaction was brought to completion. While the reaction mixture was retained at -5° C., 1.5 l of a 30% aqueous solution of NaOH were charged dropwise so that the reaction mixture was neutralized to pH 7. By filtration under reduced pressure, a clay-like material of a purple color was collected. The target compound was extracted from the clay-like material using 3 l of ethyl acetate. Through the procedures of washing with water, drying over anhydrous sodium sulfate and removal of the solvent, 63 g of bluish crude crystals were obtained. They were crystallized further by silica gel chromatography to obtain 60.8 g of white crystals (yield: 29.9%).

reactant | hydrochloric acid | 1,260 ml | Cl | ClH
reactant | 2-amino-4,6-dimethoxypyrimidine | 1.16 moles, 180 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | NaNO2 | 2.3 moles, 159 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | H2O | O | H2O
product | 2-chloro-4,6-dimethoxypyrimidine | 63 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
